US08247576B2
84A. 2-[2-(4-Chloro-phenyl)-2-hydroxy-2-(4-iodo-phenyl)-ethyl]-isoindole-1,3-dione
A mixture of 2-(4-chloro-phenyl)-2-(4-iodo-phenyl)-oxirane* (571 mg, 1.60 mmol) and potassium phthalimide (340 mg, 1.84 mmol) in THF (5 mL) and DMSO (2 mL) was heated at 100° C. for 20 hours. The mixture was concentrated in vacuo, diluted with ethyl acetate and washed with water and brine (×2), dried (MgSO4), filtered and concentrated to give a crude product which was purified by column chromatography (SiO2), eluting with a gradient of ethyl acetate/petrol (2.5% to 100%) then 10% methanol/dichloromethane to give the title compound (273 mg, 34%); LCMS (PS-A2) Rt 3.22 min [M+H]+ 504.

reactant | 2-(4-chloro-phenyl)-2-(4-iodo-phenyl)-oxirane | ClC1=CC=C(C=C1)C1(OC1)C1=CC=C(C=C1)I | C14H10ClIO
reactant | potassium phthalimide | 1.84 mmol, 340 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 2-[2-(4-Chloro-phenyl)-2-hydroxy-2-(4-iodo-phenyl)-ethyl]-isoindole-1,3-dione | 273 mg, 34% | ClC1=CC=C(C=C1)C(CN1C(C2=CC=CC=C2C1=O)=O)(C1=CC=C(C=C1)I)O | C22H15ClINO3
